US06034096
A solution of 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]benzoic acid (3.1 g, 7.6 mmol) and thionyl chloride (1.1 ml, 15.2 mmol) in dimethylformamide (30 ml) was stirred overnight at room temperature, then the suspension was diluted with diethyl ether and the solid was filtered and dried yielding 3.2 g of crude 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]benzoyl chloride. This compound was added as solid to a solution of hydroxylamine hydrochloride (0.6 g, 8.5 mmol) and sodium bicarbonate (1.2 g, 14 mmol) and 1N sodium hydroxide (8.5 ml, 8.5 mmol) in water (30 ml) and THF (40 ml). The mixture was stirred at room temperature for 2 hours, then the mixture was saturated with sodium chloride and the organic phase was separated and the aqueous phase was extracted with THF. The combined organic phases were dried foyer anhydrous sodium sulphate and the solvent was removed under reduced pressure. Crude was dissolved in hot THF (150 ml) and the insoluble material was filtered off. The solution was cooled at room temperature and treated with 1.5 N etheric solution of HCl. The solid product was filtered and dried yielding 1.2 g (yield 38%) of pure 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]-benzohydroxamic acid hydrochloride as white solid; m.p.=167-168° C. (dec.)

reactant | 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]benzoic acid | 7.6 mmol, 3.1 g | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CNNC(=O)C1=CC=C(C(=O)O)C=C1 | C24H27N3O3
reactant | thionyl chloride | 15.2 mmol, 1.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[6-(diethylaminomethyl)naphth-2-ylmethylaminocarbamoyl]benzoyl chloride | 3.2 g | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CNNC(=O)C1=CC=C(C(=O)Cl)C=C1 | C24H26ClN3O2
